US07462639B2
N-[3-(7,7-Dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-benzenesulfonamide
N-[3-(7,7-Dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-benzenesulfonamide was prepared using 2-(4-amino-1H-pyrazol-3-yl)-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (150 mg, 0.53 mmol) and phenylsulfonylchloride. The title compound was obtained as white powder (66 mg).

reactant | 2-(4-amino-1H-pyrazol-3-yl)-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 0.53 mmol, 150 mg | NC=1C(=NNC1)C1=NC=2C(=CC=3C(C(NC3C2)=O)(C)C)N1 | C14H14N6O
reactant | phenylsulfonylchloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-[3-(7,7-Dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-benzenesulfonamide | CC1(C(NC=2C=C3C(=CC12)NC(=N3)C3=NNC=C3NS(=O)(=O)C3=CC=CC=C3)=O)C | C20H18N6O3S
